US07456288B2
1-[4-(2-Bromoethylamino)phenyl]-1-ethanone
To a suspension of 60% NaH (5.93 g, 247.08 mmol) in DMF (80 mL) taken in a one liter 2 neck round bottom flask fitted with a pressure equalizing addition funnel and a septum was added a solution of p-aminoacetophenone (20 g, 148.1 mmol) in DMF (60 mL) in drops through the pressure equalizing addition funnel under nitrogen atmosphere at 0° C. and the contents were stirred for 2 hours at 25° C. Then to the stirred solution was added 1,2-dibromoethane (97.48 g, 518.5 mmol) in drops and the contents were further stirred for another 18 hours at 90° C. The reaction mixture was cooled to 25-35° C. and was carefully added to cold water (650 mL) while stirring. The organics were extracted with ethylacetate (3×200 mL) and combined organics were washed with water (2×100 mL) followed by a brine wash. The separated organics were dried over Na2SO4 and concentrated under reduced pressure. The crude was chromatographed over silicagel by using 15-20% ethyl acetate/pet. ether (3 Lit), affording the title compound 5.1 g (14%) as a pale yellow solid. Mp: 92-94° C.

reactant | NaH | 247.08 mmol, 5.93 g | [H-].[Na+]
reactant | p-aminoacetophenone | 148.1 mmol, 20 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | 1,2-dibromoethane | 518.5 mmol, 97.48 g | BrCCBr | C2H4Br2
reactant | water | 650 mL | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-[4-(2-Bromoethylamino)phenyl]-1-ethanone | 5.1 g, 14% | BrCCNC1=CC=C(C=C1)C(C)=O | C10H12BrNO
